US07179801B2
Under a nitrogen atmosphere, 10% palladium on active carbon (125 g) and methanol (3.75 L) were placed in a 5.0 L of three-necked flask. To the mixture was added 5-amino-4-cyano-1-(2-hydroxyethyl)-1H-pyrazole (250 g). The mixture was stirred at room temperature for 1 hour under a hydrogen atmosphere. To the reaction mixture was added 4N hydrogen chloride solution in methanol (1.65 L), and the mixture was stirred at room temperature for 1.5 hours under a hydrogen atmosphere. To the reaction mixture was added water (1.2 L). The catalyst was filtered off and washed with 50% aqueous methanol, and the filtrate was evaporated in vacuo. The residue was triturated with isopropanol/ethyl acetate (1:1). The precipitate was collected by filtration on a glass filter, washed with ethyl acetate and dried in vacuo to give 5-amino-4-aminomethyl-1-(2-hydroxyethyl)-1H-pyrazole dihydrochloride (358 g) as a white solid.

reactant | 5-amino-4-cyano-1-(2-hydroxyethyl)-1H-pyrazole | 250 g | NC1=C(C=NN1CCO)C#N | C6H8N4O
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | water | 1.2 L | O | H2O
solvent | methanol | 1.65 L | CO | CH4O
catalyst | palladium | [Pd] | Pd
solvent | methanol | 3.75 L | CO | CH4O
product | 5-amino-4-aminomethyl-1-(2-hydroxyethyl)-1H-pyrazole dihydrochloride | 358 g | Cl.Cl.NC1=C(C=NN1CCO)CN | InChI=1S/C6H12N4O.2ClH/c7-3-5-4-9-10(1-2-11)6(5)8;;/h4,11H,1-3,7-8H2;2*1H
